US07378417B2
7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.5) and 3-amino-N-cyclopropyl-benzenesulfonamide [CAS 459434-39-0] according to general procedure II. Light yellow solid. MS (ISP) 564.2 [(M−H)−]; mp 199° C.

reactant | 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)C)F | C16H10F5N3O2
reactant | 3-amino-N-cyclopropyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1CC1 | C9H12N2O2S
product | 7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide | C1(CC1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)C | C25H20F5N5O3S
